US07799933B2
1-(2-Methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid was converted to the title compound in analogy to example 8, steps 3 and 4. Step 3 was performed using (5-amino-[1,2,4]thiadiazol-3-yl)-acetic acid allyl ester and 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid and yielded (5-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-[1,2,4]thiadiazol-3-yl)-acetic acid allyl ester, which was hydrolyzed to (5-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-[1,2,4]thiadiazol-3-yl)-acetic acid in step 4, MS (ISP): m/e=501.1 (M−H).

reactant | (5-amino-[1,2,4]thiadiazol-3-yl)-acetic acid allyl ester | C(C=C)OC(CC1=NSC(=N1)N)=O | C7H9N3O2S
reactant | 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid | COC1=C(C=C(C=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)C(=O)O | C18H19NO5S
product | (5-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-[1,2,4]thiadiazol-3-yl)-acetic acid allyl ester | C(C=C)OC(CC1=NSC(=N1)NC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)C)OC)=O | C25H26N4O6S2
